US05716944
A mixture of 7-cyclohexyl-1-tetralone (9.4 g), sodium methoxide (8.9 g) and dimethyl carbonate (65 ml) was refluxed for 30 minutes in a nitrogen gas stream. After the reaction mixture was cooled, the resulting crystals were collected by filtration and suspended in ethyl acetate (250 ml), followed by addition of 6N HCl (50 ml). The organic layer was collected, while the aqueous layer was extracted with ethyl acetate. The extract was combined with the organic layer, successively washed with water and brine, and dried (MgSO4), after which the solvent was evaporated off, to yield methyl 7-cyclohexyl-1-tetralone-2-carboxylate (8.6 g, 74%) as an oil.

reactant | 7-cyclohexyl-1-tetralone | 9.4 g | C1(CCCCC1)C1=CC=C2CCCC(C2=C1)=O | C16H20O
reactant | sodium methoxide | 8.9 g | C[O-].[Na+]
reactant | dimethyl carbonate | 65 ml | C(OC)(OC)=O | C3H6O3
product | methyl 7-cyclohexyl-1-tetralone-2-carboxylate | 8.6 g, 74% | C1(CCCCC1)C1=CC=C2CCC(C(C2=C1)=O)C(=O)OC | C18H22O3
